US08686048B2
Intermediate 75: 3′-(trifluoromethoxy)biphenyl-4-amine
The title compound (280 mg) was prepared from 4-bromoaniline (300 mg, 1.74 mmol) and 3-(trifluoromethoxy)phenylboronic acid (466 mg, 2.26 mmol) as a pale-yellow liquid.

reactant | 4-bromoaniline | 1.74 mmol, 300 mg | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | 3-(trifluoromethoxy)phenylboronic acid | 2.26 mmol, 466 mg | FC(OC=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O3
product | 3′-(trifluoromethoxy)biphenyl-4-amine | 280 mg | FC(OC=1C=C(C=CC1)C1=CC=C(C=C1)N)(F)F | C13H10F3NO
